US07858781B2
(1) 3,6-Dihydro-2H-pyridine-1-carboxylic acid benzyl ester (31)
1,2,3,6-Tetrahydro-pyridine (3 g, 36.1 mmol) are treated with 10% aqueous sodium carbonate (2.1 ml) and cooled to 0° C. Within 1 h, benzyl chloroformiate (Z-chloride, 5.1 ml, 36 mmol) is added dropwise within 1 h. After additional stirring for 2 h, the mixture is treated with 30 ml of brine and extracted four times with diethyl ether. The organic layers are dried over sodium sulphate and evaporated. The crude product, 7 g of a colorless oil, is purified by Flash-chromatography (silica gel, cyclohexane/ethyl acetate 9:1).

reactant | 1,2,3,6-Tetrahydro-pyridine | 36.1 mmol, 3 g | N1CCC=CC1 | C5H9N
reactant | sodium carbonate | 2.1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | Z-chloride | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
solvent | brine | 30 ml | [Cl-].[Na+].O
product | 3,6-Dihydro-2H-pyridine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC=CC1 | C13H15NO2
